US04447441
A mixture of methyl 5-[2-(2-[2,2,2-trifluoroethyl]guanidino)thiazol-4-yl]valerate (0.4 g.) and ethanolic methylamine (33% w/v, 60 ml.) was allowed to stand at room temperature for 2 days. The mixture was then evaporated to dryness and the residue recrystallised from EtOAc/ether to give N-methyl-5-[2-(2-[2,2,2-trifluoroethyl]guanidino)thiazol-4-yl]valeramide (yield 85%), m.p. 122°-126°.

reactant | methyl 5-[2-(2-[2,2,2-trifluoroethyl]guanidino)thiazol-4-yl]valerate | 0.4 g | FC(CN=C(NC=1SC=C(N1)CCCCC(=O)OC)N)(F)F | C12H17F3N4O2S
reactant | methylamine | 60 ml | CN | CH5N
product | N-methyl-5-[2-(2-[2,2,2-trifluoroethyl]guanidino)thiazol-4-yl]valeramide | yield 85% | CNC(CCCCC=1N=C(SC1)NC(=NCC(F)(F)F)N)=O | C12H18F3N5OS
